US07981903B2
To a suspension of the 2-fluoro-6-({2-{[4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)phenyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide (15.7 g, 23.4 mmol) in methanol (250 mL) and tetrahydrofuran (125 ml) was added K2CO3 (32.3g 234 mmol in 125 ml of water), The reaction mixture was stirred at 85° C. for 6 hours. The organic layer was subsequently washed with water and brine, dried over sodium sulfate, filtered, stripped onto celite, and purified by chromatography on SiO2 (400 g SiO2, 0% to 10% MeOH/CH2CL2 with 0.1% added NH3) to afford the 2-fluoro-6-[(2-{[4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)phenyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide (11.2 g, 92%) as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.01 (d, J=6.59 Hz, 6 H), 2.59 (d, J=3.85 Hz, 4 H), 2.67 (m, J=6.41 Hz, 1 H), 3.10 (br. s., 4 H), 3.81 (s, 3H), 6.22 (s., 1 H), 6.47 (d, J=8.79 Hz, 1 H), 6.63 (d, J=1.28 Hz, 1 H), 6.89-6.98 (m, 2 H), 7.36-7.46 (m, 2 H), 7.90 (d, J=8.61 Hz, 1 H), 8.02 (s., 1 H), 8.10 (s, 1 H), 8.50 (d, J=8.42 Hz, 1 H), 10.47 (s, 1 H), 11.31 (s., 1 H). MS(ESI): m/z 519 (M+1)+.

reactant | 2-fluoro-6-({2-{[4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)phenyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzamide | 23.4 mmol, 15.7 g | FC1=C(C(=O)N)C(=CC=C1)NC=1C2=C(N=C(N1)NC1=C(C=C(C=C1)N1CCN(CC1)C(C)C)OC)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C34H37FN8O4S
reactant | K2CO3 | 234 mmol, 125 ml, 32.3g | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 250 mL | CO | CH4O
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
product | 2-fluoro-6-[(2-{[4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)phenyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide | 11.2 g, 92% | FC1=C(C(=O)N)C(=CC=C1)NC1=C2C(NC(=N1)NC1=C(C=C(C=C1)N1CCN(CC1)C(C)C)OC)=NC=C2 | C27H31FN8O2
